US07994317B2
b) Preparation of cis-4-{[4-chloro-6-(methylamino)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxylic acid
Commercially available cis-4-aminocyclohexanecarboxylic acid (17.46 mmol) was added to the above crude solution of 4,6-dichloro-N-methyl-1,3,5-triazin-2-amine in CH3CN:H2O (1:1, 28.6 mL). The reaction mixture was stirred at room temperature to 40° C. for 3 hours while the pH was maintained between 9 and 10 with addition of a NaOH solution. LCMS analysis showed the complete consumption of 4,6-dichloro-N-methyl-1,3,5-triazin-2-amine. The crude product was used in the next step. MS (ES+): m/e 286.0 [M+H]+.

reactant | cis-4-aminocyclohexanecarboxylic acid | 17.46 mmol | N[C@H]1CC[C@H](CC1)C(=O)O | C7H13NO2
reactant | 4,6-dichloro-N-methyl-1,3,5-triazin-2-amine | ClC1=NC(=NC(=N1)Cl)NC | C4H4Cl2N4
reactant | NaOH | [OH-].[Na+]
solvent | CH3CN H2O | 28.6 mL | CC#N.O
product | cis-4-{[4-chloro-6-(methylamino)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxylic acid | ClC1=NC(=NC(=N1)NC)N[C@H]1CC[C@H](CC1)C(=O)O | C11H16ClN5O2
